US06150561
Manufacture of β-apo-4'-carotenal
For the performance of the Wittig reaction, 75 g (0.18 mol) of β-apo-8'-carotenal were placed in a 2.5 l sulphonation flask equipped with a stirrer, condenser, thermometer, automatic dosage device (Dosimat) and argon gasification. The β-apo-8'-carotenal was then suspended in 900 ml of dry isopropanol and the resulting red, not very thick suspension was heated to 70° C. The freshly prepared alkaline acetal solution from the previously process step was then added and rinsed in with 100 ml of dry isopropanol. 38.99 ml of sodium methylate solution (containing 0.2080 mol of base) were subsequently dosed in within 30 minutes using the Dosimat. Subsequently, the mixture was stirred at 70° for a further hour and thereafter 342.3 mol of 0.5N sulphuric acid (0.0858 mol of acid) were dosed in at 70° C. within one hour using the Dosimat. Then the oil bath was replaced by a water bath, 342.3 ml of 0.5N sodium hydroxide solution (0.1711 mol of base) were added within 15 minutes using the Dosimat and thereby the reaction mixture was cooled to 25° C. The red-brown crystal slurry was stirred for a further 60 minutes, thereafter filtered over a slotted glass suction filter having a paper filter and the filter cake was washed in sequence twice with 340 ml each time of isopropanol and three times with 340 ml each time of deionized water. The thus-obtained wine-red crystals were subsequently dried for 2 days at 50° C. in a vacuum drying oven at 20-30 mbar (2-3 kPa). There were obtained 82.7 g of a cystallizate of the desired product, β-apo-4'-carotenal. The weight yield was 95.2% based on β-apo-8'-carotenal used. The composition of the product according to HPLC or, respectively, Karl-Fischer titration was as follows:

reactant | β-apo-8'-carotenal | 0.18 mol, 75 g | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=O)/C)/C | C30H40O
reactant | sodium methylate | 0.2080 mol, 38.99 ml | C[O-].[Na+]
reactant | sulphuric acid | 342.3 mol, 0.5N | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 0.1711 mol, 0.5N, 342.3 ml | [OH-].[Na+]
solvent | isopropanol | 900 ml | C(C)(C)O | C3H8O
product | β-apo-4'-carotenal | CC1=C(C(CCC1)(C)C)/C=C/C(=C/C=C/C(=C/C=C/C=C(\C)/C=C/C=C(\C)/C=C/C=C(\C)/C=O)/C)/C | C35H46O
